US08530504B2
2-Bromo-[2,6-dimethoxy-4-(methoxymethyl)phenyl]ethanone
To a tetrahydrofuran (120 mL) solution of 1-[2,6-dimethoxy-4-(methoxymethyl)phenyl]ethanone (10.0 g, 44.9 mmol) was added triethylamine (18.8 ml, 135 mmol), and tert-butyldimethylsilyl trifluoromethanesulfonate (15.5 ml, 67.4 mmol) was added dropwise while cooling on ice, and the mixture was stirred for 30 minutes. N-bromosuccinimide (12.0 g, 67.4 mmol) was added and the mixture was stirred for 1.5 hours. To the reaction mixture, a saturated aqueous solution sodium hydrogencarbonate was added, and the reaction mixture was extracted with ethyl acetate, and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. To a tetrahydrofuran (80 mL) solution was added dropwise tetrabutylammonium fluoride (1M, 40.4 ml, 40.4 mmol) while cooling on ice, and the mixture was stirred for 30 minutes. To the mixture was added a saturated aqueous solution of ammonium chloride and the mixture was extracted with ethyl acetate and dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a mixed solvent of n-heptane and ethyl acetate: n-heptane/ethyl acetate 3/1 then 2/1) to obtain the title compound (12.0 g, 39.6 mmol).

reactant | 1-[2,6-dimethoxy-4-(methoxymethyl)phenyl]ethanone | 44.9 mmol, 10.0 g | COC1=C(C(=CC(=C1)COC)OC)C(C)=O | C12H16O4
reactant | triethylamine | 135 mmol, 18.8 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 67.4 mmol, 15.5 ml | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | N-bromosuccinimide | 67.4 mmol, 12.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | tetrabutylammonium fluoride | 40.4 mmol, 1M, 40.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 2-Bromo-[2,6-dimethoxy-4-(methoxymethyl)phenyl]ethanone | 39.6 mmol, 12.0 g | BrCC(=O)C1=C(C=C(C=C1OC)COC)OC | C12H15BrO4
